US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-(2-hydroxy-ethylsulfamoyl)-benzylamide (14)
To a chilled (−78° C.) solution of 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-(2-methoxy-ethylsulfamoyl)-benzylamide (22 mg, 0.45 mmol) in dichloromethane (5 mL) was added in several portions a 1 M solution of BBr3 (0.13 mL, 0.13 mmol) in dichloromethane. The mixture was allowed to warm to room temperature. The mixture was quenched with saturated aqueous sodium bicarbonate and then extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (2×5 mL), dried over magnesium sulfate, filtered and concentrated. The material was purified by silica gel chromatography eluting with a gradient of 0-100% ethyl acetate in hexanes to afford the title compound as a white powder.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-(2-methoxy-ethylsulfamoyl)-benzylamide | 0.45 mmol, 22 mg | COCCNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=CC2)C2=CC=C(C=C2)F)C=C1 | C24H23FN4O4S
reactant | BBr3 | 0.13 mmol, 0.13 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-(2-hydroxy-ethylsulfamoyl)-benzylamide | OCCNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=CC2)C2=CC=C(C=C2)F)C=C1 | C23H21FN4O4S
